US06831106B1
c) Methyl 4′-[3,4-bis-(1-phenylmethanoyloxymethyl)-benzyloxy]-2-methylbiphenyl-4-carboxylate
In a manner similar to that of Example 1(i), by reaction of 2.0 g (8.7 mmol) of methyl 4′-hydroxy-2-methylbiphenyl-4-carboxylate with 4.3 g (9.8 mmol) of 3,4-bis(benzoyloxymethyl)benzyl bromide and 1.29 g (9.3 mmol) of potassium carbonate, the desired product is obtained in the form of a yellow oil (m=4.88 g; Y=91%).

reactant | methyl 4′-hydroxy-2-methylbiphenyl-4-carboxylate | 8.7 mmol, 2.0 g | OC1=CC=C(C=C1)C1=C(C=C(C=C1)C(=O)OC)C | C15H14O3
reactant | 3,4-bis(benzoyloxymethyl)benzyl bromide | 9.8 mmol, 4.3 g | C(C1=CC=CC=C1)(=O)OCC=1C=C(CBr)C=CC1COC(C1=CC=CC=C1)=O | C23H19BrO4
reactant | potassium carbonate | 9.3 mmol, 1.29 g | C([O-])([O-])=O.[K+].[K+]
product | Methyl 4′-[3,4-bis-(1-phenylmethanoyloxymethyl)-benzyloxy]-2-methylbiphenyl-4-carboxylate | C1(=CC=CC=C1)C(=O)OCC=1C=C(COC2=CC=C(C=C2)C2=C(C=C(C=C2)C(=O)OC)C)C=CC1COC(=O)C1=CC=CC=C1 | C38H32O7
